US06232310B1
d) 3-Methyl-6-trifluoromethyl-4H-1,4-benzothiazine-2-carbonitrile 1,1-dioxide
The title compound was prepared by base catalyzed ring closure of N-(2-cyanomethylsulfonyl-5-trifluoromethylphenyl)-acetamide by a procedure analogous to the procedure described in EXAMPLE 1 c); white flakes (from methanol), mp 329-333° C., 1H-NMR(CD3OD) δ (ppm): 8.20-8.10 (br d, 1H), 7.78-7.62 (m, 2H), 4.88 (br, H2O+NH), 2.52 (s, 3H); 13C-NMR (DMSO-d6) δ (ppm): 156.4, 135.6, 133.1 (q, J=33 Hz), 126.6, 124.2, 123.0 (CF3, J=273 Hz), 121.9 (J=3.4 Hz), 116.2 (J=4.5 Hz), 112.4 (C≡N), 86.3 20.4; IR (KBr) ν (cm−1): 3301, 3195, 3133, 2214(C≡N), 1628, 1614, 1592, 1554, 1487, 1422, 1339, 1308, 1265, 1241, 1187, 1159, 1131, 1083, 890; MS m/e (rel. intensity): 288 (74%, M+), 224 (74%), 223 (100%), 203 (8%), 155 (9%), 69 (16%).

reactant | N-(2-cyanomethylsulfonyl-5-trifluoromethylphenyl)-acetamide | C(#N)CS(=O)(=O)C1=C(C=C(C=C1)C(F)(F)F)NC(C)=O | C11H9F3N2O3S
reactant | KBr | [K+].[Br-]
solvent | methanol | CO | CH4O
product | 3-Methyl-6-trifluoromethyl-4H-1,4-benzothiazine-2-carbonitrile 1,1-dioxide | CC1=C(S(C2=C(N1)C=C(C=C2)C(F)(F)F)(=O)=O)C#N | C11H7F3N2O2S
